US06090804
1-[5-(5-Benzylamino-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine
0.13 ml (1.05 mmol) of benzyl isocyanate was added to 25 ml of acetonitrile solution containing 253 mg (1.0 mmol) of 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide, and the mixture was stirred at room temperature for 40 hours, 718 mg (2.2 mmol) of 1,2-dibromo-1,1,2,2-tetrachloroethane, 1.22 ml of triethylamine and 1.16 g of triphenylphosphine were added, and then the mixture was stirred at room temperature for 9 hours. The reaction solution was concentrated, chloroform was added to the resulting residue, followed by washing with water and drying over anhydrous magnesium sulfate. The solvent was evaporated and the resulting residue was purified by a silica gel column chromatography to give 122 mg of the title compound in its free form. By subjecting 117 mg of this compound to salt formation using 27 mg of oxalic acid, 122 mg of the title compound was obtained.

reactant | benzyl isocyanate | 1.05 mmol, 0.13 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide | 1.0 mmol, 253 mg | N1(CCCCCC1)CC=1SC(=CC1)C(=O)NN | C12H19N3OS
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 2.2 mmol, 718 mg | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | triphenylphosphine | 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 1.22 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-[5-(5-Benzylamino-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine | 122 mg | C(C1=CC=CC=C1)NC1=NN=C(O1)C1=CC=C(S1)CN1CCCCCC1 | C20H24N4OS
